US07435744B2
N-(4-Methanesulfonylamino-phenyl)-2-[4-[4-methoxy-benzyl)-piperidin-1-yl]-2-oxo-acetamide (45 70002778)
The title compound is prepared from N-(4-methanesulfonylamino-phenyl)-oxalamic acid and 4-(4-methoxy-benzyl)-piperidine according to the method described in Example 1c. Melting Point: 206-208° C. (diethylether)

reactant | N-(4-methanesulfonylamino-phenyl)-oxalamic acid | CS(=O)(=O)NC1=CC=C(C=C1)NC(C(=O)O)=O | C9H10N2O5S
reactant | 4-(4-methoxy-benzyl)-piperidine | COC1=CC=C(CC2CCNCC2)C=C1 | C13H19NO
solvent | diethylether | C(C)OCC | C4H10O
product | N-(4-Methanesulfonylamino-phenyl)-2-[4-[4-methoxy-benzyl)-piperidin-1-yl]-2-oxo-acetamide | CS(=O)(=O)NC1=CC=C(C=C1)NC(C(=O)N1CCC(CC1)CC1=CC=C(C=C1)OC)=O | C22H27N3O5S
